US07700589B2
86c) diethyl 2-(3,4-diethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate
Prepared analogously to Example 76c) from 4-(3,4-diethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid and 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one.

reactant | 4-(3,4-diethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid | C(C)C=1C=C(C=CC1CC)CC(CC(=O)O)(C(=O)OCC)C(=O)OCC | C20H28O6
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
product | diethyl 2-(3,4-diethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate | C(C)C=1C=C(CC(C(=O)OCC)(C(=O)OCC)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=CC1CC | C33H43N3O6
